US06887890B2
Synthesis of tris(4-formylaminophenyl)methane
Tris(4-aminophenyl)methane (2.9 g), formic acid (4.6 g) and 4-dimethylaminopyridine (122 mg) were dissolved in dichloromethane (30 ml), after which 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (9.61 g) was added under a nitrogen atmosphere at 5° C., the temperature was raised to room temperature, and the mixture was stirred for 2 days. Ethyl acetate (100 ml) and water (50 ml) were added to the reaction mixture which was then vigorously shaken, and the organic layer was washed with saturated sodium bicarbonate water (20 ml), water (20 ml) and saturated aqueous sodium chloride (20 ml), dried over sodium sulfate, and concentrated to dryness. The residue was purified by silica gel column chromatography (Kieselgel 60, 240-400 mesh) and elution was performed with a mixed solvent of chloroform:methanol=90:10 to obtain 1.63 g of the title compound as a light brown powder (44% yield).

reactant | Tris(4-aminophenyl)methane | 2.9 g | NC1=CC=C(C=C1)C(C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C19H19N3
reactant | formic acid | 4.6 g | C(=O)O | CH2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 9.61 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
catalyst | 4-dimethylaminopyridine | 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | tris(4-formylaminophenyl)methane | 1.63 g, 44% yield | C(=O)NC1=CC=C(C=C1)C(C1=CC=C(C=C1)NC=O)C1=CC=C(C=C1)NC=O | C22H19N3O3
